US05659040
(E)-N-Methyl-2-[3-(4-hydroxy-1-methyl-4-piperidinyl)-1H-indol-5-yl]ethenesulphonamide
A mixture of (E)-N-methyl-2-(1H-indole-5-yl)ethenesulphonamide (2.0 g), 1-methyl-4-piperidone (1.62 g) and potassium hydroxide (0.7 g) in IMS (20 mL) was stirred at ambient temperature for 22 hr. The reaction mixture was concentrated and the residue purified by column chromatography on silica gel. Eluting with dichloromethane/ethanol/ammonia (25:10:1) gave an oil which solidified on standing to a brown solid. Trituration with ether provided the product as a white powder (1.85 g, 64% of theory).

reactant | (E)-N-methyl-2-(1H-indole-5-yl)ethenesulphonamide | 2.0 g | CNS(=O)(=O)\C=C\C=1C=C2C=CNC2=CC1 | C11H12N2O2S
reactant | 1-methyl-4-piperidone | 1.62 g | CN1CCC(CC1)=O | C6H11NO
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
solvent | ether | CCOCC | C4H10O
product | (E)-N-Methyl-2-[3-(4-hydroxy-1-methyl-4-piperidinyl)-1H-indol-5-yl]ethenesulphonamide | 1.85 g, 64% | CNS(=O)(=O)\C=C\C=1C=C2C(=CNC2=CC1)C1(CCN(CC1)C)O | C17H23N3O3S
